US08236826B2
Production of methyl 3-[4-(5-nitropyridin-2-ylsulfanyl)phenyl]propionate
To a solution of 3-[4-(5-nitropyridin-2-ylsulfanyl)phenyl]propionic acid (86.0 g, 0.283 mmol) in DMF (1 mL) were added potassium carbonate (59.0 mg, 0.424 mmol) and methyl iodide (0.0260 mL, 0.424 mmol), and the resulting solution was stirred for 1 hour at room temperature. Water was added to the reaction mixture, and then cooled with ice. The precipitated solid matter was collected by filtration, to thereby yield 76.9 mg of the title compound.

reactant | 3-[4-(5-nitropyridin-2-ylsulfanyl)phenyl]propionic acid | 0.283 mmol, 86.0 g | [N+](=O)([O-])C=1C=CC(=NC1)SC1=CC=C(C=C1)CCC(=O)O | C14H12N2O4S
reactant | potassium carbonate | 0.424 mmol, 59.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.424 mmol, 0.0260 mL | CI | CH3I
reactant | Water | O | H2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | methyl 3-[4-(5-nitropyridin-2-ylsulfanyl)phenyl]propionate | [N+](=O)([O-])C=1C=CC(=NC1)SC1=CC=C(C=C1)CCC(=O)OC | C15H14N2O4S
